US06953806B2
In analogy to the procedure described in example 1.6, trans-2-(4-methylaminomethyl-cyclohexyl)-ethanol was acylated with 4-trifluoromethyl-benzene sulfochloride to yield trans-N-[4-(2-hydroxy-ethyl)-cyclohexylmethyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide as colorless solid, MS: 380 (MH+).

reactant | trans-2-(4-methylaminomethyl-cyclohexyl)-ethanol | CNC[C@@H]1CC[C@H](CC1)CCO | C10H21NO
reactant | 4-trifluoromethyl-benzene sulfochloride | S(=O)(=O)(O)Cl.FC(C1=CC=CC=C1)(F)F
product | trans-N-[4-(2-hydroxy-ethyl)-cyclohexylmethyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | OCC[C@@H]1CC[C@H](CC1)CN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C17H24F3NO3S
